US09062070B2
3-Cyano-4-fluorobenzaldehyde (2.17 g, 14.7 mmol) was dissolved in THF (50 mL) then cooled to −70° C. To this mixture was added methyl magnesiumbromide (5.34 mL, 16.0 mmol). The mixture was stirred for 1 h, then was quenched with brine and extracted with ether. The ethereal layer was separated, dried over Na2SO4, filtered, and evaporated to dryness. The residue was purified by MPLC chromatography through a 120 g Redi-sep column using 0-50% EtOAc/hexane eluent to yield 2-fluoro-5-(1-hydroxyethyl)benzonitrile: LC-MS: M+1=166.

reactant | 3-Cyano-4-fluorobenzaldehyde | 14.7 mmol, 2.17 g | C(#N)C=1C=C(C=O)C=CC1F | C8H4FNO
reactant | methyl magnesiumbromide | 16.0 mmol, 5.34 mL | C[Mg]Br
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-fluoro-5-(1-hydroxyethyl)benzonitrile | FC1=C(C#N)C=C(C=C1)C(C)O | C9H8FNO
